US08440666B2
2-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}-1H-isoindole-1,3(2H)-dione
4-Bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (100 mg, 0.306 mmol) and potassium carbonate (51 mg, 0.0369 mmol) in N,N-dimethylformamide (3 mL) were stirred with 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione (93 mg, 0.366 mmol) at 80° C. for 7 hours. After completion of the reaction, the reaction solution was mixed with aqueous ammonium chloride and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was used for the next reaction without purification.

reactant | 4-Bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.306 mmol, 100 mg | BrC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20BrN3O
reactant | potassium carbonate | 0.0369 mmol, 51 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione | 0.366 mmol, 93 mg | BrCCN1C(C2=CC=CC=C2C1=O)=O | C10H8BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}-1H-isoindole-1,3(2H)-dione | BrC1=C(C=NN(C1=O)CCN1C(C2=CC=CC=C2C1=O)=O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C24H27BrN4O3
